US04691027
5-Hydroxy-2,4,6,7-tetramethyl-2-phenyl-1,3-benzoxathiole
3.0 g of 5-t-butyldimethylsilyloxy-2,4,6,7-tetramethyl-2-phenyl-1,3-benzoxathiole were dissolved in 30 ml of tetrahydrofuran. Under a stream of nitrogen, 4.5 g of acetic acid and 12.9 g of tetrabutylammonium fluoride trihydrate were then added to the mixture. The reaction mixture was then allowed to react for 2 hours at room temperature. At the end of this time, the reaction mixture was poured into water, and the resulting precipitate was extracted with benzene. The extract was washed with water and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The resulting crude oily substance was subjected to silica gel column chromatography. The title compound was obtained from the portion eluted with a 1.1 by volume mixture of cyclohexane and benzene. It melted at 80°-81° C.

reactant | 5-t-butyldimethylsilyloxy-2,4,6,7-tetramethyl-2-phenyl-1,3-benzoxathiole | 3.0 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C2=C(SC(O2)(C2=CC=CC=C2)C)C1C)C)C | C23H32O2SSi
reactant | acetic acid | 4.5 g | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride trihydrate | 12.9 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-Hydroxy-2,4,6,7-tetramethyl-2-phenyl-1,3-benzoxathiole | OC=1C(=C(C2=C(SC(O2)(C2=CC=CC=C2)C)C1C)C)C | C17H18O2S
